US06787536B2
2-(R)-{4-[5-(4-Trifluoromethylphenyl)pyrimidin-2-yl]piperazine-1-sulfonylmethyl}-N-hydroxy-3-methylbutyramide
Prepared according to the method for the preparation of 2-(R)-{4-[5-(4-fluorophenyl)pyrimidin-2-yl]piperazine-1-sulfonylmethyl}-N-hydroxy-3-methylbutyramide, from 3-methyl-2-(R)-{4-[5-(4-trifluoromethylphenyl)pyrimidin-2-yl]piperazine-1-sulfonylmethyl}butyric acid (0.086 g), to provide the title compound as a white solid (0.031 g, 35%).

reactant | 2-(R)-{4-[5-(4-fluorophenyl)pyrimidin-2-yl]piperazine-1-sulfonylmethyl}-N-hydroxy-3-methylbutyramide | FC1=CC=C(C=C1)C=1C=NC(=NC1)N1CCN(CC1)S(=O)(=O)C[C@@H](C(=O)NO)C(C)C | C20H26FN5O4S
reactant | 3-methyl-2-(R)-{4-[5-(4-trifluoromethylphenyl)pyrimidin-2-yl]piperazine-1-sulfonylmethyl}butyric acid | 0.086 g | CC([C@H](C(=O)O)CS(=O)(=O)N1CCN(CC1)C1=NC=C(C=N1)C1=CC=C(C=C1)C(F)(F)F)C | C21H25F3N4O4S
product | 2-(R)-{4-[5-(4-Trifluoromethylphenyl)pyrimidin-2-yl]piperazine-1-sulfonylmethyl}-N-hydroxy-3-methylbutyramide | 0.031 g, 35% | FC(C1=CC=C(C=C1)C=1C=NC(=NC1)N1CCN(CC1)S(=O)(=O)C[C@@H](C(=O)NO)C(C)C)(F)F | C21H26F3N5O4S
